US07875647B2
Step 1: Ethyl 4-bromo-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate (68)
To a solution of ethyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate (1 g, 2.4 mmol) in methylene chloride (30 ml) at room temperature was added bromine (4.9 ml, prepared 1.0 M solution in methylenechlordie, 4.9 mmol) dropwisely. The reaction mixture was stirred at room temperature for 1 hour and the resulting solution was diluted with ethyl ether (50 ml). The reaction mixture was quenched with saturated sodium bicarbonate solution (30 ml) and extracted with ethyl ether (50 ml twice). The organic solution was evaporated under reduced pressure, and crude residue was purified with silica gel column (hexane/ethyl acetate=5/1) to recover starting material (401 mg, 40%) and produce the title compound (520 mg, 45% yield) as white solid.

reactant | ethyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate | 2.4 mmol, 1 g | ClC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C18H13Cl3N2O2
reactant | bromine | 4.9 mmol, 1.0 M, 4.9 ml | BrBr | Br2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | Ethyl 4-bromo-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate | 520 mg, 45% yield | BrC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C18H12BrCl3N2O2
